US06838584B2
Benzyl trimethylammonium chloride (0.196 g, 1 mmol) was added to a solution of 2-phenylindene (0.200 g, 1.04 mmol) and α,α′-dibromoxylene (0.289 g, 1.09 mmol) in tetrahydrofuran (10 mL) then 50% aqueous sodium hydroxide (10 mL) was added. The resulting mixture was stirred at 50° C. overnight. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed sequentially with water, 0.1 N hydrochloric acid, water, and saturated aqueous sodium chloride then dried (MgSO4), filtered, and evaporated to a yellow solid. The crude product was purified by preparative thin layer chromatography on silica gel eluted with 98:2 hexane:ethyl acetate to afford 2-phenyl-1′,3′-dihydro-spiro[1H-indene-1,2′-[2H]indene] as a white amorphous solid (0.048 g). NMR (CDCl3, 500 MHz) δ 7.56 (2H, d, J=7 Hz), 7.42 (1H, d, J=7 Hz), 7.24-7.38 (9H, m, ArH), 7.09 (1H, t, J=7 Hz, ArH), 7.02 (1H, d, J=7 Hz, ArH), 3.78 (2H, d, J=16.5 Hz, CH2), 3.19 (2H, d, J=16.5 Hz, CH2).

reactant | 2-phenylindene | 1.04 mmol, 0.200 g | C1(=CC=CC=C1)C=1CC2=CC=CC=C2C1 | C15H12
reactant | α,α′-dibromoxylene | 1.09 mmol, 0.289 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
catalyst | Benzyl trimethylammonium chloride | 1 mmol, 0.196 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-phenyl-1′,3′-dihydro-spiro[1H-indene-1,2′-[2H]indene] | C1(=CC=CC=C1)C1=CC2=CC=CC=C2C12CC1=CC=CC=C1C2 | C23H18
